US07566724B2
In the same manner as in Reference Example 13, N-(4-iodophenyl)pyrimidin-2-amine (150 mg) and cyclopropylmethyl bromide (82 mg) were reacted in the presence of sodium hydride to obtain N-(cyclopropylmethyl)-N-(4-iodophenyl)pyrimidin-2-amine (162 mg).

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 150 mg | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | cyclopropylmethyl bromide | 82 mg | C1(CC1)CBr | C4H7Br
reactant | sodium hydride | [H-].[Na+]
product | N-(cyclopropylmethyl)-N-(4-iodophenyl)pyrimidin-2-amine | 162 mg | C1(CC1)CN(C1=NC=CC=N1)C1=CC=C(C=C1)I | C14H14IN3
